US06066672
Under an argon gas stream, N-(tert-butoxycarbonyl)-(L)-leucine methyl ester (9.8 g, 40 mmol) as dissolved in toluene (70 ml), and cooled to -78° C. To the solution, while keeping the temperature at -60 to -70° C., was added gradually aluminum diisobutyl hydride (toluene 1.0 M solution, 52 ml). After stirring at -78° C. for 40 minutes, the cooling bath was removed, and methanol (2.1 ml) and 20% aqueous citric acid solution (30 ml) were added to the mixture, followed by extraction with ethyl acetate. The organic layer was washed with 20% aqueous citric acid solution, a saturated aqueous sodium bicarbonate solution, water and a saturated aqueous sodium chloride solution, successively. The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to give (S)-2-(tert-butoxycarbonylamino)-5-methylpentanal (8.5 g).

reactant | N-(tert-butoxycarbonyl)-(L)-leucine methyl ester | 40 mmol, 9.8 g | COC([C@@H](NC(=O)OC(C)(C)C)CC(C)C)=O | C12H23NO4
reactant | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | (S)-2-(tert-butoxycarbonylamino)-5-methylpentanal | 8.5 g | C(C)(C)(C)OC(=O)N[C@H](C=O)CCCC | C11H21NO3
